US08071774B2
k) Tert-butyl 2′-({[tert-butyl(dimethyl)silyl]oxy}methyl)-6-methoxy-2-oxospiro[indole-3,3′-piperidine]-1(2H)-carboxylate
A solution of 1 mol of 3-(3-amino-propyl)-6-methoxy-1,3-dihydro-indol-2-one in 5 ml of ethanol is treated with 5 mmol of sodium acetate hydrochloride and 5 mmol of (tert-butyl-dimethyl-silanyloxy)-acetaldehyde [102191-92-4] and stirred at 60° C. for 3 hours. The reaction mixture is concentrated in vacuo and treated with aqueous saturated potassium carbonate solution and diethyl ether. The phases are separated and the aqueous phase is extracted with diethyl ether (2×). The combined organic phases are washed with water, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 3-(3-amino-propyl)-6-methoxy-1,3-dihydro-indol-2-one | 1 mol | NCCCC1C(NC2=CC(=CC=C12)OC)=O | C12H16N2O2
reactant | sodium acetate hydrochloride | 5 mmol | Cl.C(C)(=O)[O-].[Na+]
reactant | (tert-butyl-dimethyl-silanyloxy)-acetaldehyde | 5 mmol | C(C)(C)(C)[Si](OCC=O)(C)C | C8H18O2Si
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Tert-butyl 2′-({[tert-butyl(dimethyl)silyl]oxy}methyl)-6-methoxy-2-oxospiro[indole-3,3′-piperidine]-1(2H)-carboxylate | [Si](C)(C)(C(C)(C)C)OCC1NCCCC12C(N(C1=CC(=CC=C12)OC)C(=O)OC(C)(C)C)=O | C25H40N2O5Si
